US06855716B2
Synthesis of 4-(3-chlorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide
130 mg (0.438 mmol) of 4-(3-chlorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid and 139 mg (0.657 mmol) of 3,3-diphenylpropylamine were dissolved in 10 ml of DMF. 126 mg (0.657 mmol) of WSC hydrochloride was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=50/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.438 mmol, 130 mg | ClC=1C=C(C=CC1)C1NC(NC(=C1C(=O)O)COC)=O | C13H13ClN2O4
reactant | 3,3-diphenylpropylamine | 0.657 mmol, 139 mg | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | WSC hydrochloride | 0.657 mmol, 126 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(3-chlorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide | C1(=CC=CC=C1)C(CCNC(=O)C=1C(NC(NC1COC)=O)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C28H28ClN3O3
